US06653471B2
In a sealed tube are 5-acetyl-4-oxo-5,6,7,8-tetrahydro-4H-cyclohepta[b]pyrrole-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester (1.1 mmol) and formamidine acetate (5.5 mmol) and 10 mL EtOH. The mixture is heated at 120° C. for 48 hours. The solvent is evaporated in vacuo and the residue is taken up in CH2Cl2 and washed two times with NaHCO3 (aq). The organic layer is dried over Na2SO4 and evaporated in vacuo and the residue chromatographed using 10% MeOH in CH2Cl2 as mobile phase to yield 7-Methyl-3,4,5,6-tetrahydro-3,8,10-triaza-benzo[e]azulene-1-carboxylic acid ethyl ester (36%). LRMS 271.1 found (M+1) 272

reactant | 5-acetyl-4-oxo-5,6,7,8-tetrahydro-4H-cyclohepta[b]pyrrole-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester | 1.1 mmol | C(C)OC(=O)C=1C2=C(N(C1)C(=O)OC(C)(C)C)CCCC(C2=O)C(C)=O | C19H25NO6
reactant | formamidine acetate | 5.5 mmol | C(C)(=O)O.C(=N)N
solvent | EtOH | 10 mL | CCO | C2H6O
product | 7-Methyl-3,4,5,6-tetrahydro-3,8,10-triaza-benzo[e]azulene-1-carboxylic acid ethyl ester | 36% | C(C)OC(=O)C1=CNC=2CCCC3=C(C12)N=CN=C3C | C15H17N3O2
